US07320995B2
1-isopropylsulfonyl-2-amino-6-(α-((tert-butyldimethylsilyl)oxy)-α-(phenyl)acetyl)-benzimidazole
Add isopropylmagnesium chloride (2.0 M in THF, 235 mL, 470 mmol) over 15 minutes to a solution of 1-isopropylsulfonyl-2-amino-6-iodobenzimidazole (42.9 g, 118 mmol) in tetrahydrofuran (850 mL) at −70° C. under a nitrogen atmosphere. Stir for 1 hour at 0° C. and then add a solution of N-[methyl] N-[methoxy] 2-(tert-butyldimethylsilyl)oxy-2-(phenyl)acetamide (90.0 g, 294 mmol) (Tius, et al., Tetrahedron, 56, 3339-3351-(2000)) in tetrahydrofuran (150 mL) via cannula. Stir the resulting slurry at 0-5° C. for 1 hour and then at room temperature for 1.5 hours. Cool the mixture to 10° C. and then add saturated aqueous ammonium chloride. Stir the mixture 15 minutes and separate the layers. Extract the aqueous layer with ethyl acetate (400 mL), dry the combined organic layers over sodium sulfate, and concentrate under reduced pressure. Purify the residue by silica gel chromatography, eluting with 1-10% acetonitrile in dichloromethane containing 0.5% triethylamine to provide a 50% yield of the title compound as a white solid. MS(ES+): m/z=488.1 (M+H)+

reactant | isopropylmagnesium chloride | 470 mmol, 2.0 M, 235 mL | C(C)(C)[Mg]Cl
reactant | 1-isopropylsulfonyl-2-amino-6-iodobenzimidazole | 118 mmol, 42.9 g | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)I)N | C10H12IN3O2S
reactant | N-[methyl] N-[methoxy] 2-(tert-butyldimethylsilyl)oxy-2-(phenyl)acetamide | 294 mmol, 90.0 g | CN(C(C(C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)=O)OC | C16H27NO3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 850 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-isopropylsulfonyl-2-amino-6-(α-((tert-butyldimethylsilyl)oxy)-α-(phenyl)acetyl)-benzimidazole | 50% yield | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C(C2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)=O)N | C24H33N3O4SSi
